US07432279B2
4-(3-Chloro-4-fluoro-phenylamino)-6-(2-morpholin-4-yl-ethylamino)-1,7-naphthyridine-3-carbonitrile
A solution of 2-morpholin-4-yl-ethylamine (0.44 mL, 2.73 mmol) and 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile (0.50 g, 1.58 mmol) in pyridine 5.3 mL was heated to 80° C. for 7 days. The solvent was evaporated and the crude product was purified by flash column chromatography (7% MeOH in CHCl3) to give a yellow solid (0.18 g, 44%). 1H NMR (400 MHz, CDCl3) δ 2.5 (m, 4 H) 2.6 (d, J=11.9 Hz, 2 H) 3.2 (m, 2 H) 3.7 (m, 4 H) 5.5 (t, J=5.1 Hz, 1 H) 6.2 (s, 1 H) 6.9 (s, 1 H) 7.1 (m, 1 H) 7.2 (t, J=8.6 Hz, 1 H) 7.3 (m, 1 H) 8.5 (s, 1 H) 9.1 (d, J=0.5 Hz, 1 H).

reactant | 2-morpholin-4-yl-ethylamine | 2.73 mmol, 0.44 mL | N1(CCOCC1)CCN | C6H14N2O
reactant | 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | 1.58 mmol, 0.50 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
solvent | pyridine | 5.3 mL | N1=CC=CC=C1 | C5H5N
product | 4-(3-Chloro-4-fluoro-phenylamino)-6-(2-morpholin-4-yl-ethylamino)-1,7-naphthyridine-3-carbonitrile | 0.18 g, 44% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)NCCN1CCOCC1)C#N | C21H20ClFN6O
